US09169259B2
A suspension of 6-chloro-N-(6-fluoropyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (132 mg, 0.5 mmol) and 2-methylpyrrolidine (64 mg, 0.75 mmol) in water (0.3 mL) was heated to 205° C. in a microwave oven for 30 minutes. The reaction mixture was purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=200:1) to give 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (105 mg, 63.8%) as a yellow solid. LC-MS: [M+H]+, 329.1, tR=2.019 min.

reactant | 6-chloro-N-(6-fluoropyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.5 mmol, 132 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)F | C11H7ClFN5
reactant | 2-methylpyrrolidine | 0.75 mmol, 64 mg | CC1NCCC1 | C5H11N
solvent | water | 0.3 mL | O | H2O
product | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 105 mg, 63.8% | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
